US06821967B2
b. 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-2-methoxy-benzylamide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-2-methoxy-benzylamide and 2-piperazin-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-2-methoxy-benzylamide | COC1=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=CC=C1 | C26H26BrNO2
reactant | 2-piperazin-1-yl-quinoline | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
product | 9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-2-methoxy-benzylamide | COC1=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2CCN(CC2)C2=NC3=CC=CC=C3C=C2)C=CC=C1 | C39H40N4O2
